US08536176B2
(1) 2-(5-Bromopyridin-2-yl)ethanol
To a solution of (5-bromopyridin-2-yl)acetic acid (60.0 mg, 0.278 mmol) in dry tetrahydrofuran (1.4 mL) was added dropwise borane-tetrahydrofuran complex (1.06M in tetrahydrofuran, 0.34 mL, 0.361 mmol) under N2. The mixture was stirred at room temperature for 19 hours and water (5 mL)-acetic acid (5 mL) was added slowly. The mixture was concentrated under reduced pressure, the residue was poured into saturated aqueous sodium hydrogen carbonate solution and extracted with ethyl acetate. The organic layer was washed with saturated aqueous sodium hydrogen carbonate solution, dried over anhydrous sodium sulfate and concentrated under reduced pressure. The residue was purified by silica gel column chromatography (hexane/ethyl acetate=7/3→ethyl acetate) to give the title compound as a yellow oil (45 mg, yield 80%).

reactant | (5-bromopyridin-2-yl)acetic acid | 0.278 mmol, 60.0 mg | BrC=1C=CC(=NC1)CC(=O)O | C7H6BrNO2
reactant | borane tetrahydrofuran | 0.361 mmol, 1.06M, 0.34 mL | B.O1CCCC1
reactant | water | 5 mL | O | H2O
reactant | acetic acid | 5 mL | C(C)(=O)O | C2H4O2
solvent | tetrahydrofuran | 1.4 mL | O1CCCC1 | C4H8O
product | 2-(5-Bromopyridin-2-yl)ethanol | 45 mg, yield 80% | BrC=1C=CC(=NC1)CCO | C7H8BrNO
